US07589109B2
Step 1. tert-Butyl 4-cyanotetrahydro-2H-pyran-4-carboxylate
To a stirred suspension of NaH (17.7 g, 0.443 mol) in N,N-dimethylformamide (200 mL) was added dropwise a solution of tert-butyl cyanoacetate (25.0 g, 0.177 mol) in N,N-dimethylformamide (100 mL) at 0° C. under N2. The mixture was allowed to warm up to ambient temperature, and stirred for 1 h. Then, bis(2-bromoethyl)ether (49.3 g, 0.177 mol) was added to the mixture, and the resulting mixture was stirred at 90° C. for 24 h. After cooling to 0° C., the mixture was washed with water (100 mL). The volatile components were removed by evaporation and the residue was precipitated with a mixture of ethyl acetate-toluene (1:2, 500 mL) and water (500 mL). The organic phase was washed with water (500 mL) three times, dried over Na2SO4, filtered and evaporated. The solid was washed with hexane, collected by filtration and dried in vacuo to give 19.0 g (57%) of the title compound as white crystal.

reactant | NaH | 0.443 mol, 17.7 g | [H-].[Na+]
reactant | tert-butyl cyanoacetate | 0.177 mol, 25.0 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | bis(2-bromoethyl)ether | 0.177 mol, 49.3 g | BrCCOCCBr | C4H8Br2O
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-cyanotetrahydro-2H-pyran-4-carboxylate | 19.0 g, 57% | C(#N)C1(CCOCC1)C(=O)OC(C)(C)C | C11H17NO3
